US07659263B2
To a solution of methyl 4-(2-benzyloxyethyl)-5-(2,4-bisbenzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.21 g, 1.77 mmol) in acetic acid (3 ml) was added 25% hydrogen bromide-acetic acid solution (3 ml), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure and the residue was subjected to azeotropic evaporation with toluene (5 ml×2). The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-0:1) to give methyl 4-(2-acetoxyethyl)-6-cyclohexyl-5-(2,4-dihydroxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (762 mg, yield 94%).

reactant | methyl 4-(2-benzyloxyethyl)-5-(2,4-bisbenzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.77 mmol, 1.21 g | C(C1=CC=CC=C1)OCCN1C2=C(C(=C1C1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1CCCCC1)SC(=C2)C(=O)OC | C43H43NO5S
reactant | hydrogen bromide acetic acid | 3 ml | Br.C(C)(=O)O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | methyl 4-(2-acetoxyethyl)-6-cyclohexyl-5-(2,4-dihydroxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 762 mg, yield 94% | C(C)(=O)OCCN1C2=C(C(=C1C1=C(C=C(C=C1)O)O)C1CCCCC1)SC(=C2)C(=O)OC | C24H27NO6S
